US08278302B2
3-(1-Methyl-1H-tetrazol-5-yl)-5-nitro-benzoic acid ethyl ester
To a 2M solution of N-methyl-5-nitro-isophthalamic acid ethyl ester (10 g) in dichloroethane (200 ml) at −20° C. was added pre-cooled triflic anhydride (10 ml) dropwise. This was stirred for 30 min and then sodium azide (4.6 g) was added. This was allowed to warm to room temperature and stirred overnight. The reaction was neutralised with 5% NaHCO3(aq) solution and the organic and aqueous layers were separated and the organic layer dried and concentrated in vacuum. Flash chromatography (100:0 to 50:50 gradient cyclohexane:EtOAc) afforded the title compound (6.5 g). Rt=1.52 min (method D).

reactant | N-methyl-5-nitro-isophthalamic acid ethyl ester | 10 g | C(C)OC(C1=CC(C(=O)NC)=CC(=C1)[N+](=O)[O-])=O | C11H12N2O5
reactant | triflic anhydride | 10 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium azide | 4.6 g | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
product | 3-(1-Methyl-1H-tetrazol-5-yl)-5-nitro-benzoic acid ethyl ester | 6.5 g | C(C)OC(C1=CC(=CC(=C1)[N+](=O)[O-])C1=NN=NN1C)=O | C11H11N5O4
